US08461189B2
4-(Acetylamino)-N-(3-amino-6-phenylpyridin-2-yl)benzamide
A solution of benzyl(2-{[4-(acetylamino)benzoyl]amino}-6-phenylpyridin-3-yl)carbamate from the previous step (30 mg theoretical, 0.0626 mmol) and MeOH (100 uL) were treated with 10% palladium on carbon (cat) and the reaction was fitted with a hydrogen balloon. After one hour the reaction was diluted with EtOAc, filtered through celite and concentrated to a residue purified via reversed phase HPLC (30-70% MeCN in water with 0.05% TFA) to afford fractions concentrated via sublimation to afford the title compound as a light yellow solid and a TFA salt. 1H NMR (MeOH-d4, 600 MHz) δ 8.04 (d, J=8.8 Hz, 2H), 7.87 (d, J=7.3 Hz, 2H), 7.76 (t, 8.2 Hz, 3H), 7.62 (d, J=8.5 Hz, 1H), 7.51 (t, J=7.6 Hz, 2H), 7.45 (d, J=7.3 Hz, 1H), 2.18 (s, 3H); MS cal'd (M+H)+, exp 347 (M+H)+. The in vitro HDAC1 IC50 of this compound is 86 nM. The IC50 of this compound in HCT-116 cells is 2050 nM.

reactant | benzyl(2-{[4-(acetylamino)benzoyl]amino}-6-phenylpyridin-3-yl)carbamate | C(C1=CC=CC=C1)OC(NC=1C(=NC(=CC1)C1=CC=CC=C1)NC(C1=CC=C(C=C1)NC(C)=O)=O)=O | C28H24N4O4
reactant | MeOH | 100 uL | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(Acetylamino)-N-(3-amino-6-phenylpyridin-2-yl)benzamide | C(C)(=O)NC1=CC=C(C(=O)NC2=NC(=CC=C2N)C2=CC=CC=C2)C=C1 | C20H18N4O2
